* Delay stimulus for period of 0n load=0fF slew=0ns

* TT process corner
.lib "/u1/fanals/asic-data-operation/OpenRAM/sky130A/libs.tech/ngspice/sky130.lib.spice" tt
.include "/tmp/openram_fanals_4159571_temp/trimmed.sp"

* Global Power Supplies
Vvdd vdd 0 5

*Nodes gnd and 0 are the same global ground node in ngspice/hspice/xa. Otherwise, this source may be needed.
*Vgnd gnd 0 0.0

* Instantiation of the SRAM
Xsram_16x2 din0_0 din0_1 din1_0 din1_1 a0_0 a0_1 a0_2 a0_3 a1_0 a1_1 a1_2 a1_3 CSB0 CSB1 WEB0 WEB1 clk0 clk1 dout0_0 dout0_1 dout1_0 dout1_1 vdd gnd sram_16x2

* SRAM output loads
CD00 dout0_0 0 0f
CD01 dout0_1 0 0f
CD10 dout1_0 0 0f
CD11 dout1_1 0 0f

* Generation of data and address signals
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_0  din0_0  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin0_1  din0_1  0 PWL (0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin1_0  din1_0  0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Vdin1_1  din1_1  0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_0 a0_0 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_1 a0_1 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_2 a0_2 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0)]
Va0_3 a0_3 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_0 a1_0 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_1 a1_1 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_2 a1_2 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 1)]
Va1_3 a1_3 0 PWL (0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of control signals
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1)]
VCSB0 CSB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 1), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1)]
VWEB0 WEB0 0 PWL (0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )
* (time, data): [(0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 0), (0, 0), (0, 1)]
VCSB1 CSB1 0 PWL (0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 0v 0.0n 5v )
* (time, data): [(0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1), (0, 1)]
VWEB1 WEB1 0 PWL (0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v 0.0n 5v )

* Generation of Port clock signal
* PULSE: period=0
VCLK0 CLK0 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
* PULSE: period=0
VCLK1 CLK1 0 PULSE (0 5 0n 0n 0n 0.0n 0n)
.include /lscratch/fanals/asic-data-operation/OpenRAM/temp/delay_meas.sp
* Measure statements for delay and power

* probe is used for hspice/xa, while plot is used in ngspice
*.probe V(*)
*.plot V(*)
.end

